US07745452B2
To a −78° C. solution of 2.5 g (11.724 mmol) N-(3,4-difluorophenyl)-2,2-dimethylpropanamide in 39 ml anhydrous THF was added drop wise over 15 mins 18 mL (28.136 mmol) n-BuLi (1.6M solution in cyclohexanes). After 1 hr at −78° C., 4 mL (26.966 mmol) ethyl 4-fluorobenzoate was added dropwise and the reaction mixture stirred from −78° C. to rt. After 45 mins, the reaction mixture was cooled to 0 C and quenched with saturated ammonium chloride and poured into a 1:1 mixture of ether:water and warmed to room temperature. The organic phase was isolated, washed with brine, dried over MgSO4, filtered, and concentrated in vacuo to yield N-[3,4-difluoro-2-(4-fluorobenzoyl)phenyl]-2,2-dimethylpropanamide (6-3). A solution of 3.5 g (10.706 mmol) N-[3,4-difluoro-2-(4-fluorobenzoyl)phenyl]-2,2-dimethylpropanamide in 43 mL 6N HCl and 8.6 mL DME was heated to 100° C. After 24 h at 100° C., the reaction mixture was cooled to room temperature and sodium carbonate was added until reaction mixture was basic. The reactions was diluted with water, extracted three times with ether, and washed with brine. The organic layer was dried over MgSO4, filtered and concentrated in vacuo. Purification by flash chromatography (1×14 cm silica gel, linear gradient 0-20% EtOAc:hexane) afforded (6-amino-2,3-difluorophenyl)(4-fluorophenyl)methanone. 1H NMR (CDCl3, 400 MHz) δ 7.85-7.80 (m, 2H, ArH); 7.17-7.11 (m, 3H, ArH); 6.47 (ddd, J=2.01 Hz, 3.66 Hz, 9.16 Hz, 1H, ArH); 4.84 (br s, 2H, ArNH2). ES MS+1=252.1.

reactant | N-[3,4-difluoro-2-(4-fluorobenzoyl)phenyl]-2,2-dimethylpropanamide | 10.706 mmol, 3.5 g | FC=1C(=C(C=CC1F)NC(C(C)(C)C)=O)C(C1=CC=C(C=C1)F)=O | C18H16F3NO2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | HCl | 6N, 43 mL | Cl | ClH
solvent | DME | 8.6 mL | COCCOC | C4H10O2
solvent | water | O | H2O
product | (6-amino-2,3-difluorophenyl)(4-fluorophenyl)methanone | NC1=CC=C(C(=C1C(=O)C1=CC=C(C=C1)F)F)F | C13H8F3NO
